US08802673B2
To a stirred suspension of sodium hydride (1.01 g) in THF (20 ml) was added dropwise over 5 min a solution of trimethylsulfonium iodide (4.69 g) in DMSO (20 ml). The reaction mixture was stirred for 5 min and then cooled to 0° C. A solution of 6-bromo-5-methylnicotinaldehyde (4.6 g, CAS 885167-81-7) in THF (15 ml) was added dropwise. The reaction mixture was stirred at 0° C. for 30 min and then at room temperature overnight. The mixture was then poured into EtOAc/Et2O (1:1) and washed with saturated brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: 0% to 50% EtOAc in hexanes) to afford (RS)-2-bromo-3-methyl-5-(oxiran-2-yl)pyridine (1.26 g, 26%) as a colourless oil. MS (ISP): 216.1 ([{81Br}M+H]+), 214.1 ([{79Br}M+H]+).

reactant | sodium hydride | 1.01 g | [H-].[Na+]
reactant | trimethylsulfonium iodide | 4.69 g | [I-].C[S+](C)C
reactant | 6-bromo-5-methylnicotinaldehyde | 4.6 g | BrC1=NC=C(C=O)C=C1C | C7H6BrNO
reactant | EtOAc Et2O | CCOC(=O)C.CCOCC
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (RS)-2-bromo-3-methyl-5-(oxiran-2-yl)pyridine | 1.26 g, 26% | BrC1=NC=C(C=C1C)C1OC1 | C8H8BrNO
